US08124606B2
Compound 86B: methyl 6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazine-3-carboxylate:
Ethyl 4-(5-(methoxycarbonyl)-3-nitropyridin-2-yl)thiomorpholine-3-carboxylate (600 mg g, 1.69 mmol) was dissolved in dichloromethane (5 mL). To the yellow solution was added ammonium metavanadate (10.0 mg, 0.085 mmol), triphenyl phosphite (aprox 10 ul, 0.032 mmol), and Pt/C (50 mg, 5% w/w). The reaction mixture was pressurized with hydrogen gas (110 psi) and stirred at room temperature for 16 h. The reaction was then depressurized and diluted with dichloromethane (20 mL) which was refluxed for 30 min. The hot solution was filtered through a pad of celite and washed with hot dichloromethane (3×10 mL). The filtrate was concentrated to yield the title compound (452 mg, 96%) as a white solid. [M+H] calc'd for C12H13N3O3S, 280. found, 280.

reactant | Ethyl 4-(5-(methoxycarbonyl)-3-nitropyridin-2-yl)thiomorpholine-3-carboxylate | 1.69 mmol, 600 mg | COC(=O)C=1C=C(C(=NC1)N1C(CSCC1)C(=O)OCC)[N+](=O)[O-] | C14H17N3O6S
reactant | triphenyl phosphite | 0.032 mmol, 10 ul | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 0.085 mmol, 10.0 mg | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 50 mg | [Pt] | Pt
product | methyl 6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazine-3-carboxylate | 452 mg, 96% | O=C1C2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCSC2 | C12H13N3O3S
